### PR TITLE
[Merged by Bors] - refactor(AlgebraicGeometry): Make `Scheme.Hom` a structure.

### PR DESCRIPTION
**Pull request by erdOne**
We make `LocallyRingedSpace.Hom` (resp. `Scheme.Hom`) into a structure
instead of a subtype (resp. type-synonym of the former) to make clearer the
abstraction boundaries between them and presheafed spaces, which allow
us to remove some `erw`s.

Plus, this enables us to write `f.base` and `f.c` instead of `f.val.base` and `f.val.c`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/RingedSpace/LocallyRingedSpace.lean [hunk 1]
```diff
@@ -70,17 +70,32 @@ def 𝒪 : Sheaf CommRingCat X.toTopCat :=
...
+  prop : ∀ x, IsLocalRingHom (PresheafedSpace.stalkMap toHom x)
+
+/-- A morphism of locally ringed spaces as a morphism of sheafed spaces. -/
+abbrev Hom.val {X Y : LocallyRingedSpace.{u}} (f : X.Hom Y) :
+  X.toSheafedSpace ⟶ Y.toSheafedSpace := f.1
+
+@[simp, nolint simpVarHead]
+lemma Hom.val_mk {X Y : LocallyRingedSpace.{u}}
+    (f : X.toPresheafedSpace.Hom Y.toPresheafedSpace) (hf) :
+  Hom.val ⟨f, hf⟩ = f := rfl
```
Comment (erdOne) [inline Mathlib/Geometry/RingedSpace/LocallyRingedSpace.lean:85]: I'm not sure what the `simpVarHead` issue is. The head symbol doesn't seem like a variable to me and it fires correctly. If this is still bad I can turn on this lemma locally.

**Comment by erdOne** [comment]
!bench

File: Mathlib/Geometry/RingedSpace/LocallyRingedSpace.lean (hunk 1 above)
Comment (chrisflav) [reply Mathlib/Geometry/RingedSpace/LocallyRingedSpace.lean:85]: I made a few tests and I can confirm that the lemma triggers.

**Review by chrisflav — COMMENTED** [review]
Very happy to see this and from skimming the fallout it looks very good.
I had a closer look at the `Scheme` and the `LocallyRingedSpace` file and left some comments.

**Comment by chrisflav** [comment]
!bench

File: Mathlib/AlgebraicGeometry/Scheme.lean [hunk 2]
```diff
@@ -58,19 +58,31 @@ abbrev Opens (X : Scheme) : Type* := TopologicalSpace.Opens X
...
 /-- A morphism between schemes is a morphism between the underlying locally ringed spaces. -/
 -- @[nolint has_nonempty_instance] -- Porting note(#5171): linter not ported yet
-def Hom (X Y : Scheme) : Type* :=
-  X.toLocallyRingedSpace ⟶ Y.toLocallyRingedSpace
+structure Hom (X Y : Scheme) extends X.toLocallyRingedSpace.Hom Y.toLocallyRingedSpace where
+
+/-- See Note [custom simps projection] -/
+abbrev Hom.val {X Y : Scheme.{u}} (f : X.Hom Y) :
+    X.toLocallyRingedSpace ⟶ Y.toLocallyRingedSpace :=
+  f.toHom_1
```
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Scheme.lean:66]: I think this is quite stable. On a side note, do you think `Hom.val` should get a more descriptive name like `toLRSHom`?

[the remark this answers is not in the document]
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Scheme.lean:66]: I think `toLRSHom` is too long. Is `Hom.lrs` too cryptic? If not we could have `Hom.psh` for the underlying `Hom` of presheafed spaces.

[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Scheme.lean:66]: I think the current design of the library shouldn't require user to use these type-cast that often so it's fine if it's a bit long?

[the remark this answers is not in the document]
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Scheme.lean:66]: Sounds reasonable, since `f.c` and `f.base` are directly accessible now, I have not checked in detail though how often the explicit cast is needed. Maybe we can replace `val` as you suggested by `toLRSHom` and add `toPSSHom` as `abbrev` for `toHom`. If it turns out to be annoying we can `sed` back quickly.

[the remark this answers is not in the document]
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Scheme.lean]: I am happy with the `val -> toLRSHom` and `toHom -> toShHom`.

**Comment by chrisflav** [comment]
Ping me when you merged master, I'll have a closer look at all the changes then.

**Comment by chrisflav** [comment]
!bench

File: Mathlib/AlgebraicGeometry/Morphisms/ClosedImmersion.lean [hunk 3]
```diff
@@ -38,13 +38,13 @@ namespace AlgebraicGeometry
 topological map is a closed embedding and the induced stalk maps are surjective. -/
 @[mk_iff]
 class IsClosedImmersion {X Y : Scheme} (f : X ⟶ Y) : Prop where
-  base_closed : ClosedEmbedding f.1.base
+  base_closed : ClosedEmbedding f.base
   surj_on_stalks : ∀ x, Function.Surjective (f.stalkMap x)
 
 namespace IsClosedImmersion
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Morphisms/ClosedImmersion.lean:45]: I can't comment on unchanged code, but in `iff_isPreimmersion` and in `of_isPreimmersion` below there are two more `f.1.base` which should be `f.base`

File: Mathlib/AlgebraicGeometry/Morphisms/Preimmersion.lean [hunk 4]
```diff
@@ -68,7 +68,7 @@ instance : MorphismProperty.IsMultiplicative @IsPreimmersion where
   comp_mem {X Y Z} f g hf hg := by
     refine ⟨hg.base_embedding.comp hf.base_embedding, fun x ↦ ?_⟩
     rw [Scheme.stalkMap_comp]
-    exact (hf.surj_on_stalks x).comp (hg.surj_on_stalks (f.1.1 x))
+    exact (hf.surj_on_stalks x).comp (hg.surj_on_stalks (f.base x))
 
 instance comp {X Y Z : Scheme} (f : X ⟶ Y) (g : Y ⟶ Z) [IsPreimmersion f]
     [IsPreimmersion g] : IsPreimmersion (f ≫ g) :=
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Morphisms/Preimmersion.lean:74]: In the definition of `IsPreimmersion` on the `base_embedding` field and in `Scheme.Hom.embedding`, there are two more `f.1.base`.

File: Mathlib/AlgebraicGeometry/Restrict.lean [hunk 5]
```diff
@@ -538,7 +538,7 @@ lemma resLE_comp_ι : f.resLE U V e ≫ U.ι = V.ι ≫ f := by
 @[reassoc]
 lemma resLE_comp_resLE {Z : Scheme.{u}} (g : Y ⟶ Z) {W : Z.Opens} (e') :
     f.resLE U V e ≫ g.resLE W U e' = (f ≫ g).resLE W V
-      (e.trans ((Opens.map f.val.base).map (homOfLE e')).le) := by
+      (e.trans ((Opens.map f.base).map (homOfLE e')).le) := by
   simp [← cancel_mono W.ι]
 
 @[reassoc (attr := simp)]
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Restrict.lean:544]: In `resLE_map` below, there is another `f.1.base`.

File: Mathlib/AlgebraicGeometry/Scheme.lean [hunk 6]
```diff
@@ -177,27 +189,36 @@ lemma preimage_comp {X Y Z : Scheme.{u}} (f : X ⟶ Y) (g : Y ⟶ Z) (U) :
...
 
 /-- The forgetful functor from `Scheme` to `TopCat`. -/
 @[simps!]
 def forgetToTop : Scheme ⥤ TopCat :=
   Scheme.forgetToLocallyRingedSpace ⋙ LocallyRingedSpace.forgetToTop
 
+/-- An isomorphism of schemes induces a homeomorphism of the underlying topological spaces. -/
+noncomputable def homeoOfIso {X Y : Scheme.{u}} (e : X ≅ Y) : X ≃ₜ Y :=
+  TopCat.homeoOfIso (forgetToTop.mapIso e)
+
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Scheme.lean:216]: As with [CategoryTheory.Iso.commRingCatIsoToRingEquiv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Category/Ring/Basic.html#CategoryTheory.Iso.commRingCatIsoToRingEquiv), this  could maybe be in the `CategoryTheory.Iso` namespace? E.g. `CategoryTheory.Iso.schemeIsoHomeo`.

File: Mathlib/AlgebraicGeometry/Scheme.lean [hunk 7]
```diff
@@ -615,72 +636,72 @@ lemma stalkMap_id (X : Scheme.{u}) (x : X) :
...
   DFunLike.congr_fun (stalkMap_inv_hom e x) y
 
 @[reassoc (attr := simp)]
-lemma stalkMap_germ (U : Y.Opens) (x : X) (hx : f.val.base x ∈ U) :
-    Y.presheaf.germ U (f.val.base x) hx ≫ f.stalkMap x =
+lemma stalkMap_germ (U : Y.Opens) (x : X) (hx : f.base x ∈ U) :
+    Y.presheaf.germ U (f.base x) hx ≫ f.stalkMap x =
       f.app U ≫ X.presheaf.germ (f ⁻¹ᵁ U) x hx :=
-  PresheafedSpace.stalkMap_germ f.val U x hx
+  PresheafedSpace.stalkMap_germ f.toHom U x hx
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Scheme.lean:698]:
```suggestion
  PresheafedSpace.stalkMap_germ f.toShHom U x hx
```

File: Mathlib/AlgebraicGeometry/Scheme.lean [hunk 8]
```diff
@@ -615,72 +636,72 @@ lemma stalkMap_id (X : Scheme.{u}) (x : X) :
...
 
 @[simp]
-lemma stalkMap_germ_apply (U : Y.Opens) (x : X) (hx : f.val.base x ∈ U) (y) :
-    f.stalkMap x (Y.presheaf.germ _ (f.val.base x) hx y) =
+lemma stalkMap_germ_apply (U : Y.Opens) (x : X) (hx : f.toLRSHom.base x ∈ U) (y) :
+    f.stalkMap x (Y.presheaf.germ _ (f.toLRSHom.base x) hx y) =
       X.presheaf.germ (f ⁻¹ᵁ U) x hx (f.app U y) :=
-  PresheafedSpace.stalkMap_germ_apply f.val U x hx y
+  PresheafedSpace.stalkMap_germ_apply f.toHom U x hx y
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Scheme.lean:704]:
```suggestion
  PresheafedSpace.stalkMap_germ_apply f.toShHom U x hx y
```

File: Mathlib/AlgebraicGeometry/Scheme.lean [hunk 9]
```diff
@@ -177,27 +189,36 @@ lemma preimage_comp {X Y Z : Scheme.{u}} (f : X ⟶ Y) (g : Y ⟶ Z) (U) :
...
-def forgetToLocallyRingedSpace : Scheme ⥤ LocallyRingedSpace :=
-  inducedFunctor _
--- deriving Full, Faithful -- Porting note: no delta derive handler, see https://github.com/leanprover-community/mathlib4/issues/5020
+def forgetToLocallyRingedSpace : Scheme ⥤ LocallyRingedSpace where
+  obj := toLocallyRingedSpace
+  map := Hom.toLRSHom
 
 /-- The forget functor `Scheme ⥤ LocallyRingedSpace` is fully faithful. -/
-@[simps!]
+@[simps! preimage_toLRSHom]
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Scheme.lean:197]:
```suggestion
@[simps preimage_toLRSHom]
```
Aside: the generated lemma uses `toHom_1` as variable name in spite of the simps projection. Is this expected?

File: Mathlib/AlgebraicGeometry/AffineScheme.lean [hunk 10]
```diff
@@ -398,7 +398,7 @@ theorem _root_.AlgebraicGeometry.Scheme.Hom.isAffineOpen_iff_of_isOpenImmersion
   refine ⟨fun hU => @isAffine_of_isIso _ _
     (IsOpenImmersion.isoOfRangeEq (X.ofRestrict U.openEmbedding ≫ f) (Y.ofRestrict _) ?_).hom ?_ hU,
     fun hU => hU.image_of_isOpenImmersion f⟩
-  · rw [Scheme.comp_val_base, coe_comp, Set.range_comp]
+  · rw [Scheme.comp_base, coe_comp, Set.range_comp] -- now `erw` after #13170
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/AffineScheme.lean:401]:
```suggestion
  · rw [Scheme.comp_base, coe_comp, Set.range_comp]
```

File: Mathlib/AlgebraicGeometry/OpenImmersion.lean [hunk 11]
```diff
@@ -255,10 +254,10 @@ theorem toScheme_toLocallyRingedSpace :
 upgrade it into a morphism of Schemes.
 -/
 def toSchemeHom : toScheme Y f ⟶ Y :=
-  toLocallyRingedSpaceHom _ f
+  ⟨toLocallyRingedSpaceHom _ f⟩
 
 @[simp]
-theorem toSchemeHom_val : (toSchemeHom Y f).val = f :=
+theorem toSchemeHom_toHom : (toSchemeHom Y f).toHom = f :=
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/OpenImmersion.lean:260]:
```suggestion
theorem toSchemeHom_toShHom : (toSchemeHom Y f).toShHom = f :=
```

File: Mathlib/AlgebraicGeometry/OpenImmersion.lean [hunk 12]
```diff
@@ -269,9 +268,9 @@ theorem scheme_eq_of_locallyRingedSpace_eq {X Y : Scheme.{u}}
   cases X; cases Y; congr
 
 theorem scheme_toScheme {X Y : Scheme.{u}} (f : X ⟶ Y) [AlgebraicGeometry.IsOpenImmersion f] :
-    toScheme Y f.1 = X := by
+    toScheme Y f.toHom = X := by
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/OpenImmersion.lean:271]:
```suggestion
    toScheme Y f.toShHom = X := by
```

File: Mathlib/AlgebraicGeometry/Pullbacks.lean [hunk 13]
```diff
@@ -528,12 +528,12 @@ def openCoverOfBase (𝒰 : OpenCover Z) (f : X ⟶ Z) (g : Y ⟶ Z) : OpenCover
...
-      limit.lift_π_assoc, cospan_left, Category.comp_id, limit.isoLimitCone_inv_π,
-      limit.isoLimitCone_inv_π_assoc, PullbackCone.flip_pt, PullbackCone.π_app_left,
-      PullbackCone.π_app_right, PullbackCone.flip_fst, PullbackCone.flip_snd,
-      pullbackSymmetry_hom_comp_snd_assoc, pullbackSymmetry_hom_comp_fst_assoc]
+  ext : 1 <;>
+  · simp only [limit.lift_π, PullbackCone.mk_pt, PullbackCone.mk_π_app, Equiv.trans_apply,
+    Equiv.prodPUnit_symm_apply, Category.assoc, limit.lift_π_assoc, cospan_left, Category.comp_id,
+    limit.isoLimitCone_inv_π_assoc, PullbackCone.π_app_left, IsPullback.cone_fst,
+    pullbackSymmetry_hom_comp_snd_assoc, limit.isoLimitCone_inv_π,
+    PullbackCone.π_app_right, IsPullback.cone_snd, pullbackSymmetry_hom_comp_fst_assoc]
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Pullbacks.lean:536]:
```suggestion
  ext : 1 <;>
  · simp only [limit.lift_π, PullbackCone.mk_pt, PullbackCone.mk_π_app, Equiv.trans_apply,
      Equiv.prodPUnit_symm_apply, Category.assoc, limit.lift_π_assoc, cospan_left, Category.comp_id,
      limit.isoLimitCone_inv_π_assoc, PullbackCone.π_app_left, IsPullback.cone_fst,
      pullbackSymmetry_hom_comp_snd_assoc, limit.isoLimitCone_inv_π,
      PullbackCone.π_app_right, IsPullback.cone_snd, pullbackSymmetry_hom_comp_fst_assoc]
```

**Review by chrisflav — COMMENTED** [review]
Mostly looks very good, only a few left-overs. I commented on some places, but here is a more rigorous listing:

- Some remaining `f.1.base` or `f.1.c` patterns: This is the output of `git grep -n "\\.toLRSHom\\.base\|\\.toShHom\\.base\|\\.1\\.base\|\\.toLRSHom\\.c\|\\.toShHom\\.c\|\\.1\\.c" Mathlib/Geometry/RingedSpace/ Mathlib/AlgebraicGeometry/`:

```
Mathlib/AlgebraicGeometry/AffineScheme.lean:522:  hU.fromSpec.1.c.app (op <| X.basicOpen f) ≫
Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean:242:          toOpen R (basicOpen r) ≫ β.1.c.app (op (basicOpen r))) :
Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean:255:theorem Γ_Spec_left_triangle : toSpecΓ (Γ.obj (op X)) ≫ X.toΓSpec.1.c.app (op ⊤) = 𝟙 _ := by
Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean:282:      erw [Y.toΓSpecSheafedSpace_app_spec, f.1.c.naturality]
Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean:355:      (locallyRingedSpaceAdjunction.homEquiv X (op <| CommRingCat.of R) f).1.c.app U =
Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean:416:      (Spec.map (X.presheaf.germ ⊤ x trivial)).1.base (LocalRing.closedPoint _) := rfl
Mathlib/AlgebraicGeometry/Limits.lean:310:def coprodIsoSigma : X ⨿ Y ≅ ∐ fun i : ULift.{u} WalkingPair ↦ i.1.casesOn X Y :=
Mathlib/AlgebraicGeometry/Limits.lean:326:    IsCompl (Set.range (coprod.inl : X ⟶ X ⨿ Y).1.base)
Mathlib/AlgebraicGeometry/Limits.lean:327:      (Set.range (coprod.inr : Y ⟶ X ⨿ Y).1.base) :=
Mathlib/AlgebraicGeometry/Limits.lean:345:    coprodMk X Y (.inl x) = (coprod.inl : X ⟶ X ⨿ Y).1.base x := by
Mathlib/AlgebraicGeometry/Limits.lean:355:    coprodMk X Y (.inr x) = (coprod.inr : Y ⟶ X ⨿ Y).1.base x := by
Mathlib/AlgebraicGeometry/Limits.lean:399:    (coprodSpec R S).1.base (coprodMk _ _ x) = (PrimeSpectrum.primeSpectrumProd R S).symm x := by
Mathlib/AlgebraicGeometry/Limits.lean:410:    (coprodSpec R S).1.base x = (PrimeSpectrum.primeSpectrumProd R S).symm
Mathlib/AlgebraicGeometry/Limits.lean:469:      (initialIsoIsInitial (initialOpOfTerminal CommRingCat.punitIsTerminal))).hom.1.base
Mathlib/AlgebraicGeometry/Morphisms/Affine.lean:161:      apply_fun Ideal.map (f.1.c.app (op ⊤)) at hS
Mathlib/AlgebraicGeometry/Morphisms/ClosedImmersion.lean:57:    IsClosedImmersion f ↔ IsPreimmersion f ∧ IsClosed (Set.range f.1.base) := by
Mathlib/AlgebraicGeometry/Morphisms/ClosedImmersion.lean:62:    (hf : IsClosed (Set.range f.1.base)) : IsClosedImmersion f :=
Mathlib/AlgebraicGeometry/Morphisms/Preimmersion.lean:36:  base_embedding : Embedding f.1.base
Mathlib/AlgebraicGeometry/Morphisms/Preimmersion.lean:39:lemma Scheme.Hom.embedding {X Y : Scheme} (f : Hom X Y) [IsPreimmersion f] : Embedding f.1.base :=
Mathlib/AlgebraicGeometry/Restrict.lean:552:      f.resLE U' V (e.trans ((Opens.map f.1.base).map i).le) := by
Mathlib/AlgebraicGeometry/Scheme.lean:701:lemma stalkMap_germ_apply (U : Y.Opens) (x : X) (hx : f.toLRSHom.base x ∈ U) (y) :
Mathlib/AlgebraicGeometry/Scheme.lean:702:    f.stalkMap x (Y.presheaf.germ _ (f.toLRSHom.base x) hx y) =
Mathlib/Geometry/RingedSpace/LocallyRingedSpace.lean:56:  X.1.carrier
Mathlib/Geometry/RingedSpace/LocallyRingedSpace.lean:408:lemma stalkMap_germ (U : Opens Y) (x : X) (hx : f.toShHom.base x ∈ U) :
Mathlib/Geometry/RingedSpace/LocallyRingedSpace.lean:409:    Y.presheaf.germ U (f.toShHom.base x) hx ≫ f.stalkMap x =
Mathlib/Geometry/RingedSpace/LocallyRingedSpace.lean:410:      f.toShHom.c.app (op U) ≫ X.presheaf.germ ((Opens.map f.1.base).obj U) x hx :=
Mathlib/Geometry/RingedSpace/LocallyRingedSpace.lean:413:lemma stalkMap_germ_apply (U : Opens Y) (x : X) (hx : f.toShHom.base x ∈ U) (y) :
Mathlib/Geometry/RingedSpace/LocallyRingedSpace.lean:414:    f.stalkMap x (Y.presheaf.germ U (f.toShHom.base x) hx y) =
Mathlib/Geometry/RingedSpace/LocallyRingedSpace.lean:415:      X.presheaf.germ ((Opens.map f.1.base).obj U) x hx (f.toShHom.c.app (op U) y) :=
Mathlib/Geometry/RingedSpace/LocallyRingedSpace.lean:420:    (Opens.map f.1.base).obj (Y.toRingedSpace.basicOpen s) =
Mathlib/Geometry/RingedSpace/LocallyRingedSpace.lean:421:      @RingedSpace.basicOpen X.toRingedSpace ((Opens.map f.1.base).obj U) (f.c.app _ s) := by
Mathlib/Geometry/RingedSpace/LocallyRingedSpace.lean:431:    rw [RingedSpace.mem_basicOpen _ s (f.1.base x) hxU]
Mathlib/Geometry/RingedSpace/OpenImmersion.lean:1209:    f.c.app (op U) ≫ H.invApp _ ((Opens.map f.1.base).obj U) =
Mathlib/Geometry/RingedSpace/OpenImmersion.lean:1217:theorem app_inv_app' (U : Opens Y) (hU : (U : Set Y) ⊆ Set.range f.1.base) :
Mathlib/Geometry/RingedSpace/OpenImmersion.lean:1218:    f.c.app (op U) ≫ H.invApp _ ((Opens.map f.1.base).obj U) =
```

- Some `toHom`s that should be `toShHom`: This is the output of `git grep -n "toHom[ \\.][^→]" Mathlib/AlgebraicGeometry/ Mathlib/Geometry/RingedSpace/`:
```
Mathlib/AlgebraicGeometry/OpenImmersion.lean:131:  (PresheafedSpace.IsOpenImmersion.inv_invApp f.toHom U).trans (by rw [eqToHom_op])
Mathlib/AlgebraicGeometry/OpenImmersion.lean:338:    (@PresheafedSpace.IsOpenImmersion.to_iso _ _ _ _ f.toHom h _) _
Mathlib/AlgebraicGeometry/OpenImmersion.lean:342:  haveI (x : X) : IsIso (f.toHom.stalkMap x) := inferInstanceAs <| IsIso (f.stalkMap x)
Mathlib/AlgebraicGeometry/OpenImmersion.lean:343:  SheafedSpace.IsOpenImmersion.of_stalk_iso f.toHom hf
Mathlib/AlgebraicGeometry/OpenImmersion.lean:351:  ⟨fun H => ⟨H.1, fun x ↦ inferInstanceAs <| IsIso (f.toHom.stalkMap x)⟩,
Mathlib/AlgebraicGeometry/Scheme.lean:640:  PresheafedSpace.stalkMap.comp f.toHom g.toHom x
Mathlib/AlgebraicGeometry/Scheme.lean:646:  PresheafedSpace.stalkMap.stalkSpecializes_stalkMap f.toHom h
Mathlib/Geometry/RingedSpace/LocallyRingedSpace.lean:76:  prop : ∀ x, IsLocalRingHom (toHom.stalkMap x)
```

Edit: I guess you better run the commands yourself, then you get color highlighting of the matches.

File: Mathlib/AlgebraicGeometry/Scheme.lean (hunk 9 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Scheme.lean]: I dunno. But I think it wouldn't cause much trouble here?

**Comment by erdOne** [comment]
Thanks for the script!
I think I fixed most occasions. Some `toHom`s are actually `toPshHom` instead of `toShHom` so I added the latter definition.

File: Mathlib/AlgebraicGeometry/OpenImmersion.lean [hunk 14]
```diff
@@ -255,10 +254,10 @@ theorem toScheme_toLocallyRingedSpace :
 upgrade it into a morphism of Schemes.
 -/
 def toSchemeHom : toScheme Y f ⟶ Y :=
-  toLocallyRingedSpaceHom _ f
+  ⟨toLocallyRingedSpaceHom _ f⟩
 
 @[simp]
-theorem toSchemeHom_val : (toSchemeHom Y f).val = f :=
+theorem toSchemeHom_toHom : (toSchemeHom Y f).toPshHom = f :=
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/OpenImmersion.lean:260]:
```suggestion
theorem toSchemeHom_toPshHom : (toSchemeHom Y f).toPshHom = f :=
```

**Review by chrisflav — APPROVED** [review]
Modulo one last minor comment, LGTM, thanks a lot!

**Comment by mattrobball** [comment]
@erdOne can you add a PR summary explaining to someone with limited information the justification for this change. 

bors delegate+

**Comment by erdOne** [comment]
Thanks for the reviews!
bors merge

**Comment by erdOne** [comment]
bors merge
